US09359375B2
(R)-4-(1-amino-4-methyl-1-oxopentan-2-ylamino)-3-fluoro-2-(3-methylisothiazol-5-ylamino)benzamide
To a solution of (R)-2-(4-cyano-2,3-difluorophenylamino)-4-methylpentanamide (113 mg, 0.423 mmol) and 5-amino-3-methylisothiazole hydrochloride (70 mg, 0.464 mmol) in DMSO (3 mL), NaH (60% in mineral oil, 100 mg, 2.50 mmol) was added. H2 gas evolved. The mixture was stirred at 130 C for 30 min. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. To a solution of the residue in EtOH (2 mL) and DMSO (0.5 mL), 1N aq. NaOH (0.5 mL) and H2O2 (50% aq., 0.5 mL) were added. After being stirred at room temperature for 30 min, the mixture was concentrated in vacuo. The residue was acidified with HOAc (0.5 mL), and then was purified by HPLC to give the titled compound (36 mg). MS 380.4 (M+H); UV 202.2, 280.5 nm

reactant | (R)-2-(4-cyano-2,3-difluorophenylamino)-4-methylpentanamide | 0.423 mmol, 113 mg | C(#N)C1=C(C(=C(C=C1)N[C@@H](C(=O)N)CC(C)C)F)F | C13H15F2N3O
reactant | 5-amino-3-methylisothiazole hydrochloride | 0.464 mmol, 70 mg | Cl.NC1=CC(=NS1)C
reactant | NaH | 2.50 mmol, 100 mg | [H-].[Na+]
reactant | Water | O | H2O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-4-(1-amino-4-methyl-1-oxopentan-2-ylamino)-3-fluoro-2-(3-methylisothiazol-5-ylamino)benzamide | 36 mg | NC([C@@H](CC(C)C)NC1=C(C(=C(C(=O)N)C=C1)NC1=CC(=NS1)C)F)=O | C17H22FN5O2S
